US07468380B2
tert-Butyl 1,1-dioxothiomorpholine-4-carboxylate
tert-Butyl thiomorpholine-4-carboxylate (1.91 g, 9.42 mmol) was dissolved in dichloromethane (50 ml); m-chloroperbenzoic acid (5.0 g, 19 mmol) was gradually added while cooled with ice bath, stirred, and under nitrogen atmosphere; and the reaction mixture was stirred at room temperature for 12 hours. After addition of a saturated aqueous solution of sodium thiosulfate, the reaction mixture was kept stirred for a while; and this was subjected to extraction with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. Triethylamine (8.1 ml, 58 mmol) were added to the obtained crystals; and the reaction mixture was stirred at room temperature. tert-Butoxycarbonyl dicarbonate (13.3 ml, 58 mmol) was added thereto; and the reaction mixture was stirred at room temperature for 10 hours. The reaction mixture was concentrated under reduced pressure; and the obtained crystals were suspended with a solvent mixture of diethyl ether:ethanol=10:1, filtered off, washed with diethyl ether and dried under aeration to yield the title compound as colorless crystals (2.03 g, 8.63 mmol, 91.6%).

reactant | tert-Butyl thiomorpholine-4-carboxylate | 9.42 mmol, 1.91 g | N1(CCSCC1)C(=O)OC(C)(C)C | C9H17NO2S
reactant | m-chloroperbenzoic acid | 19 mmol, 5.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | Triethylamine | 58 mmol, 8.1 ml | C(C)N(CC)CC | C6H15N
reactant | tert-Butoxycarbonyl dicarbonate | 58 mmol, 13.3 ml | C(=O)(OC(=O)OC(C)(C)C)OC(=O)[O-]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | tert-Butyl 1,1-dioxothiomorpholine-4-carboxylate | 8.63 mmol, 2.03 g, 91.6% | O=S1(CCN(CC1)C(=O)OC(C)(C)C)=O | C9H17NO4S
